US07378415B2
A solution of (7-benzenesulfonyl-3-oxo-2,3-dihydro-benzo[1,4]oxazin-4-yl)-acetonitrile (0.234 g., 0.713 mmol) in 2 mL anhydrous THF was warmed to reflux, and borane-methyl sulfide complex (0.5 mL of a 10 M solution, 5 mmol) was added dropwise over 5 minutes. Reflux was continued for 4 hours, and the reaction mixture was concentrated in vacuo. The residue was then dissolved in 2 mL ethanol and ethanolic hydrogen chloride was added (2 mL of a 2 N solution, 4 mmol.) The solution was refluxed for 18 hours then cooled to room temperature, resulting in formation of a precipitate. The solid was filtered and dried under vacuum for 18 hours to give 0.158 g (0.496 mmol, 70%) of 2-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-ethylamine as a yellowish solid. MS: 319 (M+H)+, mp: 261.0-265.1° C. (HCl salt).

reactant | (7-benzenesulfonyl-3-oxo-2,3-dihydro-benzo[1,4]oxazin-4-yl)-acetonitrile | 0.713 mmol, 0.234 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(C(CO2)=O)CC#N)C=C1 | C16H12N2O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazin-4-yl)-ethylamine | 0.496 mmol, 0.158 g, 70% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)CCN)C=C1 | C16H18N2O3S
